US06303613B1
(a) 3-Aminothiophene-2-thiocarboxamide
A solution of 3-aminothiophene-2-carboxamide (4.5 g, 31 mmol) in tetrahydrofuran was treated with Lawesson's Reagent (7.7 g, 190 mmol) and the solution was stirred at room temperature for 18 h. The solvent was removed and the residue purified by chromatography on silica gel using dichloromethane as eluent. The product was obtained as a yellow powder (2.8 g, 56%), m.p. 98-99° C.

reactant | 3-aminothiophene-2-carboxamide | 31 mmol, 4.5 g | NC1=C(SC=C1)C(=O)N | C5H6N2OS
reactant | Lawesson's Reagent | 190 mmol, 7.7 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-Aminothiophene-2-thiocarboxamide | 2.8 g, 56% | NC1=C(SC=C1)C(N)=S | C5H6N2S2
